US08202868B2
a.1.4: 2-tert-Butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine
24.8 g of piperazine (287.9 mmol) were dissolved in 350 ml of ethanol and heated to reflux. 24.9 g of 2-tert-butyl-4-chloro-6-cyclobutyl-pyrimidine (48.06 mmol), dissolved in 50 ml of ethanol, were added dropwise to the solution. The solution was refluxed for further 3 h, cooled to room temperature and then extracted with water and ethyl acetate. The organic layer was washed with 5% citric acid (aq.), and the aqueous layer was adjusted to alkaline pH with 2 N NaOH. The alkaline aqueous layer was reextracted with ethyl acetate, and the organic phase was dried over magnesium sulfate, filtered and concentrated to dryness to yield 8.6 g (65.2%) of the title compound.

reactant | piperazine | 287.9 mmol, 24.8 g | N1CCNCC1 | C4H10N2
reactant | 2-tert-butyl-4-chloro-6-cyclobutyl-pyrimidine | 48.06 mmol, 24.9 g | C(C)(C)(C)C1=NC(=CC(=N1)Cl)C1CCC1 | C12H17ClN2
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-tert-Butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine | 8.6 g, 65.2% | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CCC1 | C16H26N4
